US04977185
When phenol was substituted for 2-naphthol and 1-chlorodecanol was substituted for 6-chlorohexanol in the procedure of Example 1, methyl 5-(10-phenoxydecyloxy)-2-furyl ketone was obtained, mp=74°-77° C.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 1-chlorodecanol | ClC(CCCCCCCCC)O | C10H21ClO
reactant | 6-chlorohexanol | ClCCCCCCO | C6H13ClO
product | methyl 5-(10-phenoxydecyloxy)-2-furyl ketone | O(C1=CC=CC=C1)CCCCCCCCCCOC1=CC=C(O1)C(=O)C | C22H30O4
